US06716843B2
(S)-1-[N5-{(Imino)-(cyclopentylsulphonylamino)methyl}-ornithyl]-pyrrolidine Hydrochloride
Starting from (S)-N2-(benzyloxycarbonyl)-arginine, cyclopentanesulphonyl chloride and pyrrolidine, the expected product is obtained according to the procedure described in Example 1.

reactant | (S)-N2-(benzyloxycarbonyl)-arginine | C(C1=CC=CC=C1)OC(=O)N[C@@H](CCCNC(N)=N)C(=O)O | C14H20N4O4
reactant | cyclopentanesulphonyl chloride | C1(CCCC1)S(=O)(=O)Cl | C5H9ClO2S
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | (S)-1-[N5-{(Imino)-(cyclopentylsulphonylamino)methyl}-ornithyl]-pyrrolidine Hydrochloride | Cl.N=C(NCCC[C@H](N)C(=O)N1CCCC1)NS(=O)(=O)C1CCCC1 | InChI=1S/C15H29N5O3S.ClH/c16-13(14(21)20-10-3-4-11-20)8-5-9-18-15(17)19-24(22,23)12-6-1-2-7-12;/h12-13H,1-11,16H2,(H3,17,18,19);1H/t13-;/m0./s1
